US06855722B2
b) 3-Triethoxyprop-1-ynyl-5-(2,2,2-trifluor-ethoxy)-pyridine
The title compound was synthesized from 3-bromo-5-(2,2,2-trifluoro-ethoxy)-pyridine and 3,3,3-triethoxypropyne using the procedure described in Example 43, step (e), in 46% yield. 1H NMR (CDCl3) δ 8.44 (bs, 1H), 8.35 (bs, 1H), 7.34 (m, 1H), 4.40 (q, 2H, J=7.9 Hz), 3.76 (q, 6H, J=7.1 Hz), 1.28 (t, 9H, J=7.1 Hz).

reactant | 3-bromo-5-(2,2,2-trifluoro-ethoxy)-pyridine | BrC=1C=NC=C(C1)OCC(F)(F)F | C7H5BrF3NO
reactant | 3,3,3-triethoxypropyne | C(C)OC(C#C)(OCC)OCC | C9H16O3
product | 3-Triethoxyprop-1-ynyl-5-(2,2,2-trifluor-ethoxy)-pyridine | 46% yield | C(C)OC(C#CC=1C=NC=C(C1)OCC(F)(F)F)(OCC)OCC | C16H20F3NO4
